US03980645
To a suspension of 11.3 g of 2-trichloroacetamido-5-chlorobenzophenone in 100 ml. of ethanol was added 4.51 g of 3-amino-1-propanol. The mixture was heated under reflux for 3 hours. Then, 1.7 g of potassium hydroxide was added thereto and the resulting mixture was further refluxed for 3 hours. After cooling, the precipitate was filtered off and washed with ethanol. The filtrate was concentrated under reduced pressure and to the residue was added 200 ml. of water. The resulting solid was collected by filtration, washed with water and dried to give 9.87 g of 10-chloro-3,4,7,11b-tetrahydro-11b-phenyl-2H,6H-[1,3]oxazino[3,2-C]quinazolin-6-one. Recrystallization from ethanol gave pale yellow prisms, having a melting point of 202°-203.5°C.

reactant | 2-trichloroacetamido-5-chlorobenzophenone | 11.3 g | ClC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)(Cl)Cl | C15H9Cl4NO2
reactant | 3-amino-1-propanol | 4.51 g | NCCCO | C3H9NO
reactant | potassium hydroxide | 1.7 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 10-chloro-3,4,7,11b-tetrahydro-11b-phenyl-2H,6H-[1,3]oxazino[3,2-C]quinazolin-6-one | 9.87 g | ClC1=CC=2C3(N(C(NC2C=C1)=O)CCCO3)C3=CC=CC=C3 | C17H15ClN2O2
